US07759339B2
Ethyl 1-(piperazin-1-yl)cyclobutanecarboxylate (0.71 mmol) was dissolved in CH2Cl2 (5 ml). Triethylamine (0.30 ml, 2.1 mmol), followed by 2-chlorobenzenesulfonyl chloride (0.11 ml, 0.79 mmol), was added at room temperature. The orange-colored solution was stirred at room temperature for 6 h before saturated NaHCO3 solution was added. The mixture was extracted twice with EtOAc. Combined organic layers were washed once with brine, dried over MgSO4, filtered and concentrated. The crude product was purified by column chromatography (SiO2, gradient 5-10% Et2O/CH2Cl2) to give ethyl 1-(4-(2-chlorophenylsulfonyl)piperazin-1-yl)cyclobutanecarboxylate as a colorless oil.

reactant | Ethyl 1-(piperazin-1-yl)cyclobutanecarboxylate | 0.71 mmol | N1(CCNCC1)C1(CCC1)C(=O)OCC | C11H20N2O2
reactant | Triethylamine | 2.1 mmol, 0.30 ml | C(C)N(CC)CC | C6H15N
reactant | 2-chlorobenzenesulfonyl chloride | 0.79 mmol, 0.11 ml | ClC1=C(C=CC=C1)S(=O)(=O)Cl | C6H4Cl2O2S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | ethyl 1-(4-(2-chlorophenylsulfonyl)piperazin-1-yl)cyclobutanecarboxylate | ClC1=C(C=CC=C1)S(=O)(=O)N1CCN(CC1)C1(CCC1)C(=O)OCC | C17H23ClN2O4S
